US05439910
A solution of 2-chloro-4-trifluoromethylpyridine (3.33 g), (1-ethoxyvinyl)tri-n-butyltin (5.95 g) and bis(triphenylphosphine)palladium(II) chloride (0.4 g) in DMF (40 ml) was heated at 70° C. for 16 hours. The reaction mixture was cooled to room temperature, potassium fluoride (60 ml of a 10% aqueous solution) was added and the resulting mixture was stirred for 1 hour then filtered through Hyflo supercel filter aid which was rinsed through with ether. The filtrate was extracted with ether (×2) and the combined extracts were washed with brine, then dried, concentrated and chromatographed using ether:hexane 1:4 as the eluant to give 1-ethoxy-1-(4-trifluoromethylpyrid-2-yl)-ethylene (1.4 g, 35% yield) as a pale yellow liquid; 1H NMR (270 MHz): δ1.45(3H,t), 4.00(2H,q), 4.42(1H,d), 5.50(1H,d), 7.40(1H,d), 7.88(1H,s), 8.72(1H,d) ppm.

reactant | 2-chloro-4-trifluoromethylpyridine | 3.33 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | (1-ethoxyvinyl)tri-n-butyltin | 5.95 g | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.4 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-ethoxy-1-(4-trifluoromethylpyrid-2-yl)-ethylene | 1.4 g, 35% yield | C(C)OC(=C)C1=NC=CC(=C1)C(F)(F)F | C10H10F3NO
